US04223136
To approximately 23 parts of sodium hydride in 4800 parts of N,N-dimethylformamide at room temperature under nitrogen is added, portionwise with stirring, 78 parts of 2-cyanoacetamide. Approximately 15 minutes later, a solution of 7-chloro-3-methylthio-2H-1,4-benzothiazine preparable as described in Part B of this example is slowly introduced, whereupon the reaction mixture is heated at 55° for 3 hours and then allowed to cool to room temperature overnight, stirring being continuous and the nitrogen atmosphere maintained throughout. The resultant mixture is acidified with glacial acetic acid and thereupon mixed with 3 volumes of water. Insoluble solids are filtered out and crystallized from aqueous N,N-dimethylformamide to give 2-cyano-2-(7-chloro-2,3-dihydro-4H-benzothiazin-3-ylidene)acetamide melting with decomposition in the range 150°-160°.

reactant | sodium hydride | [H-].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | 2-cyanoacetamide | C(#N)CC(=O)N | C3H4N2O
reactant | 7-chloro-3-methylthio-2H-1,4-benzothiazine | ClC1=CC2=C(N=C(CS2)SC)C=C1 | C9H8ClNS2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-cyano-2-(7-chloro-2,3-dihydro-4H-benzothiazin-3-ylidene)acetamide | C(#N)C(C(=O)N)=C1NSC2=C(C1)C=CC(=C2)Cl | C11H8ClN3OS
